US04960779
Hydroxylamine hydrochloride (0.9 g) is added to a suspension, maintained at 0° C. with a bath of ice-cold water, of 2-(7-methoxy-1,8-naphthyridin-2-yl)-3-(5-methyl-2-oxohexyl)-1-isoindolinone (4.3 g) in a mixture (100 cc) of water and ethanol (50:50 by volume). The suspension obtained is allowed to return to a temperature in the region of 20° C. and a solution of sodium carbonate (0.7 g) in distilled water (10 cc) is added. The suspension obtained is heated to reflux for 22 hours. During this period, ethanol (80 cc) is added in two portions. Refluxing is maintained for 12 hours, adding in three portions further hydroxylamine hydrochloride (1.35 g) and sodium carbonate (1.05 g). The reaction mixture is then poured into water (1 litre). The aqueous phase is extracted with methylene chloride (3×300 cc). The organic phases are combined, washed with distilled water (2×100 cc), dried over magnesium sulphate, filtered and concentrated to dryness. After recrystallization in 2-propanol, 3-(2-hydroxyimino-5-methylhexyl)-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone (1 g), m.p. 200° C., is obtained.

reactant | Hydroxylamine hydrochloride | 0.9 g | Cl.NO
reactant | 2-(7-methoxy-1,8-naphthyridin-2-yl)-3-(5-methyl-2-oxohexyl)-1-isoindolinone | 4.3 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1CC(CCC(C)C)=O)=O | C24H25N3O3
reactant | ethanol | C(C)O | C2H6O
reactant | sodium carbonate | 0.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 80 cc | C(C)O | C2H6O
reactant | hydroxylamine hydrochloride | 1.35 g | Cl.NO
reactant | sodium carbonate | 1.05 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 10 cc | O | H2O
solvent | water | 1 litre | O | H2O
solvent | water | 100 cc | O | H2O
product | 3-(2-hydroxyimino-5-methylhexyl)-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone | 1 g | ON=C(CC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)OC)CCC(C)C | C24H26N4O3
